* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\SSS No 002.asc
C1 N005 N006 360p
XU1 N005 N010 N021 5751
R1 N021 LNFB 1.5K
R2 HT-A N005 100K
C2 N021 LNFB 5µ
C3 N020 N019 0.1µ
R3 N005 N019 100K
XU2 N006 N014 N013 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N020 N030 N023 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N011 P001 N022 5751
R4 N022 N031 1.5k
R5 HT-A N011 100K
C5 N022 N031 5µ
V1 HT1 0 447 Rser=10
C6 N011 P002 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N030 0 1.8k
XU5 N013 0 REV pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N052 0 47
C8 N085 N052 0.1µ
R9 N072 N052 18k
C9 N064 N063 .02µ
R10 N064 N072 1Meg
R11 N072 N085 1Meg
R12 N073 N072 820
XU6 N060 N064 N073 7025
XU7 N086 N085 N073 7025
R13 N083 N086 100K
R14 N060 N070 100k
C10 N057 N060 0.1µ
C11 N087 N086 0.1µ
R15 N061 BIAS 220K
R16 BIAS N088 220K
XU8 N053 N059 N062 0 6L6GC
XU9 N084 N090 N089 0 6L6GC
R17 OUTPUT 0 8
R18 HT2 N059 470
R19 HT2 N090 470
R20 N053 N052 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N009 N010 68K
R23 N009 0 1Meg
R24 N009 N010 68K
XU20 N066 N076 N081 7025
R38 HT4 N066 100K
V3 N009 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU24 N053 HT1 N084 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N065 N078 N080 5751
XU26 N065 N078 N080 5751
R43 N080 0 2.2k
C25 N080 0 25µ
XU27 HT6 N065 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N068 RevUnitOut+ N082 7025
R44 RevUnitOut+ 0 100k
XU29 0 N077 spst SET={REV}
R45 HT4 N068 100K
C27 N068 N069 3000p
XU30 N069 0 3 pot_lin Rtot=100K wiper={REVRET} Rtap=.50K tap=0.5
R49 RevUnitIn+ 0 8
B1 N058 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N058 3K
V4 N001 0 -320 Rser=100
XU32 N001 NC_01 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R56 N062 N061 1.5K
R57 N089 N088 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 NC_02 N002 1k
C33 N002 0 20µ
R61 N002 0 220k
C34 N019 N024 .047
XU33 NC_03 0 N024 pot_lin Rtot=100K wiper={MID}
R62 LNFB 0 100
XU34 N014 N028 N023 N023 P003 N023 dpdt SET={GUITARMIC}
XU35 N027 N029 P004 N027 N029 N037 dpdt SET={DEEP}
XU36 N013 N007 NC_04 spdt SET={BRIGHT}
C4 N007 REV 250p
R63 N013 P003 100k
C35 N028 0 .0047
R64 N023 P004 270k
R65 REV N037 270k
C36 N027 N046 .01
R66 N027 N046 1m
R67 0 N029 10k
R68 N031 0 100
R69 P001 REV 68k
C37 N017 N011 .001µ
L2 N012 P002 300m Rser=59
R34 N012 N017 470k
XHigh N008 N017 N026 N039 N041 N045 N049 N051 Switch7Pos1Pole POS=1
XLow N018 N012 N025 N036 N040 N042 N043 N044 Switch7Pos1Pole POS=1
C39 N026 N017 150p
C40 N039 N017 330p
C41 N041 N017 1000p
C42 N045 N017 2400p
C43 N049 N017 5100p
C44 N017 0 .003µ
R70 N008 N017 820k
R71 0 N008 100k
R72 N012 N025 39k
R73 N025 N036 68k
R74 N036 N040 100k
R75 N040 N042 180k
R76 N042 N043 270k
R77 N043 N044 390k
R78 N044 0 12k
C45 N012 N044 .01µ
R79 N018 N008 270k
C38 N051 N017 .01µ
XU37 N004 N008 N015 7025
R80 HT4 N004 100k
XU38 HT4 N004 N033 7025
R81 N015 0 1k
C46 N015 0 1µ
R82 N032 LNFB 470k
C47 N033 N032 .22µ
R83 N033 0 100k
R84 N034 N033 220k
R85 N035 N034 220k
XU39 N003 3 N016 7025
XU40 HT4 N003 N035 7025
R86 HT4 N003 100k
R87 N016 0 1k
C48 N016 0 1µ
R88 N035 0 100k
C49 N034 N047 .01µ
XU41 N047 N063 N050 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
XU42 N047 N048 NC_05 spdt SET={ACCENT}
C50 N048 N050 .001µ
R35 N076 REV 68k
C19 N081 N091 5µ
R36 N081 N091 1.5k
R37 N091 0 100
C20 N067 N066 .001µ
XU10 N067 0 N077 pot_pow Rtot=250K wiper={REVSEND} Rtap=25k tap=0.5
R39 P005 N077 2.2m
C21 N065 P005 .05
R40 N078 N077 10k
R41 RevUnitIn+ N091 2.2k
C22 N082 1 5µ
R42 N082 1 1.5k
R48 1 0 100
R52 N038 N035 100k
C23 N038 1 .1µ
XU11 N070 N083 HT3 pot_lin Rtot=25K wiper=.65
C14 N060 N086 68p
R25 N057 N071 1m
R26 N071 N087 1m
R27 N071 0 130k
R28 BIAS N071 820k
XU12 HT2 N057 N061 7025
XU13 HT2 N087 N088 7025
XU14 N053 N055 N056 0 6L6GC
R29 HT2 N055 470
R30 N056 N054 1.5k
R31 0 N061 470k
R32 N054 0 470k
XU15 N084 N079 N075 0 6L6GC
R33 HT2 N079 470
R46 N075 N074 1.5k
R47 0 N088 470k
R51 N074 0 470k
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Dumble Steel String Singer #002\nLTspice Schematic Ryan Colgan\nwww.TheToneGeek.com
.INC VCRA.INC
.INC transPPC.INC
.param REV=1 REVRET=0.5 REVSEND=0.5
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.param bias=.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
.step param POS 1 7 1
.PARAM  MASTER=0.5
* .STEP LIN PARAM MASTER 0.1  1.0 0.1
* 0 = ACCENT Off\n1 = ACCENT On
.param ACCENT=0
* .STEP LIN PARAM REVSEND 0.1  1.0 0.1
* .step param PI .1 1 .1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
