* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\SSS No 002.asc
C1 N006 N007 360p
XU1 N006 N011 N022 5751
R1 N022 LNFB 1.5K
R2 HT-A N006 100K
C2 N022 LNFB 5µ
C3 N021 N020 0.1µ
R3 N006 N020 100K
XU2 N007 N015 N014 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N021 N031 N024 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N012 P001 N023 5751
R4 N023 N032 1.5k
R5 HT-A N012 100K
C5 N023 N032 5µ
V1 HT1 0 447 Rser=10
C6 N012 P002 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N031 0 1.8k
XU5 N014 0 REV pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N053 0 47
C8 N086 N053 0.1µ
R9 N073 N053 18k
C9 N065 N064 .02µ
R10 N065 N073 1Meg
R11 N073 N086 1Meg
R12 N074 N073 820
XU6 N061 N065 N074 7025
XU7 N087 N086 N074 7025
R13 N084 N087 100K
R14 N061 N071 100k
C10 N058 N061 0.1µ
C11 N088 N087 0.1µ
R15 N062 BIAS 220K
R16 BIAS N089 220K
XU8 N054 N060 N063 0 6L6GC
XU9 N085 N091 N090 0 6L6GC
R17 OUTPUT 0 8
R18 HT2 N060 470
R19 HT2 N091 470
R20 N054 N053 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N010 N011 68K
R23 N010 0 1Meg
R24 N010 N011 68K
XU20 N067 N077 N082 7025
R38 HT4 N067 100K
V3 N010 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU24 N054 HT1 N085 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N066 N079 N081 5751
XU26 N066 N079 N081 5751
R43 N081 0 2.2k
C25 N081 0 25µ
XU27 HT6 N066 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N069 RevUnitOut+ N083 7025
R44 RevUnitOut+ 0 100k
XU29 0 N078 spst SET={REV}
R45 HT4 N069 100K
C27 N069 N070 3000p
XU30 N070 0 3 pot_lin Rtot=100K wiper={REVRET} Rtap=.50K tap=0.5
R49 RevUnitIn+ 0 8
B1 N059 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N059 3K
V4 N001 0 -320 Rser=100
XU32 N001 NC_01 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R56 N063 N062 1.5K
R57 N090 N089 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 NC_02 N002 1k
C33 N002 0 20µ
R61 N002 0 220k
C34 N020 N025 .047
XU33 NC_03 0 N025 pot_lin Rtot=100K wiper={MID}
R62 LNFB 0 100
XU34 N015 N029 N024 N024 P003 N024 dpdt SET={GUITARMIC}
XU35 N028 N030 P004 N028 N030 N038 dpdt SET={DEEP}
XU36 N014 N008 NC_04 spdt SET={BRIGHT}
C4 N008 REV 250p
R63 N014 P003 100k
C35 N029 0 .0047
R64 N024 P004 270k
R65 REV N038 270k
C36 N028 N047 .01
R66 N028 N047 1m
R67 0 N030 10k
R68 N032 0 100
R69 P001 REV 68k
C37 N018 N012 .001µ
L2 N013 N003 300m Rser=59
R34 N013 N018 470k
XHigh N009 N018 N027 N040 N042 N046 N050 N052 Switch7Pos1Pole POS={POS}
XLow N019 N013 N026 N037 N041 N043 N044 N045 Switch7Pos1Pole POS={POS}
C39 N027 N018 150p
C40 N040 N018 330p
C41 N042 N018 1000p
C42 N046 N018 2400p
C43 N050 N018 5100p
C44 N018 0 .003µ
R70 N009 N018 820k
R71 0 N009 100k
R72 N013 N026 39k
R73 N026 N037 68k
R74 N037 N041 100k
R75 N041 N043 180k
R76 N043 N044 270k
R77 N044 N045 390k
R78 N045 0 12k
C45 N013 N045 .01µ
R79 N019 N009 270k
C38 N052 N018 .01µ
XU37 N005 N009 N016 7025
R80 HT4 N005 100k
XU38 HT4 N005 N034 7025
R81 N016 0 1k
C46 N016 0 1µ
R82 N033 LNFB 470k
C47 N034 N033 .22µ
R83 N034 0 100k
R84 N035 N034 220k
R85 N036 N035 220k
XU39 N004 3 N017 7025
XU40 HT4 N004 N036 7025
R86 HT4 N004 100k
R87 N017 0 1k
C48 N017 0 1µ
R88 N036 0 100k
C49 N035 N048 .01µ
XU41 N048 N064 N051 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
XU42 N048 N049 NC_05 spdt SET={ACCENT}
C50 N049 N051 .001µ
R35 N077 REV 68k
C19 N082 N092 5µ
R36 N082 N092 1.5k
R37 N092 0 100
C20 N068 N067 .001µ
XU10 N068 0 N078 pot_pow Rtot=250K wiper={REVSEND} Rtap=25k tap=0.5
R39 P005 N078 2.2m
C21 N066 P005 .05
R40 N079 N078 10k
R41 RevUnitIn+ N092 2.2k
C22 N083 1 5µ
R42 N083 1 1.5k
R48 1 0 100
R52 N039 N036 270k
C23 N039 1 .1µ
XU11 N071 N084 HT3 pot_lin Rtot=25K wiper=.65
C14 N061 N087 68p
R25 N058 N072 1m
R26 N072 N088 1m
R27 N072 0 130k
R28 BIAS N072 820k
XU12 HT2 N058 N062 7025
XU13 HT2 N088 N089 7025
XU14 N054 N056 N057 0 6L6GC
R29 HT2 N056 470
R30 N057 N055 1.5k
R31 0 N062 470k
R32 N055 0 470k
XU15 N085 N080 N076 0 6L6GC
R33 HT2 N080 470
R46 N076 N075 1.5k
R47 0 N089 470k
R51 N075 0 470k
R53 N003 P002 100k
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Dumble Steel String Singer #002\nLTspice Schematic Ryan Colgan & The Amp Garage\nwww.TheToneGeek.com https://ampgarage.com/
.INC VCRA.INC
.INC transPPC.INC
.param REV=0 REVRET=1 REVSEND=1
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.param bias=.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
.step param POS 1 7 1
.PARAM  MASTER=0.5
* .STEP LIN PARAM MASTER 0.1  1.0 0.1
* 0 = ACCENT Off\n1 = ACCENT On
.param ACCENT=0
* .STEP LIN PARAM REVSEND 0.1  1.0 0.1
* .step param PI .1 1 .1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
