* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\SSS No 002.asc
C1 N005 N006 360p
XU1 N005 N010 N022 5751
R1 N022 LNFB 1.5K
R2 HT-A N005 100K
C2 N022 LNFB 5µ
C3 N021 N020 0.1µ
R3 N005 N020 100K
XU2 N006 N015 N014 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N021 N031 N024 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N011 P001 N023 5751
R4 N023 N032 1.5k
R5 HT-A N011 100K
C5 N023 N032 5µ
V1 HT1 0 447 Rser=10
C6 N011 P002 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N031 0 1.8k
XU5 N014 0 REV pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N053 0 270
C8 N085 N053 0.1µ
R9 N072 N053 18k
C9 N064 N063 .02µ
R10 N064 N072 1Meg
R11 N072 N085 1Meg
R12 N073 N072 820
XU6 N061 N064 N073 7025
XU7 N086 N085 N073 7025
R13 N083 N086 100K
R14 N061 N070 100k
C10 N058 N061 0.1µ
C11 N087 N086 0.1µ
R15 N055 BIAS 220K
R16 BIAS N074 220K
XU8 N054 N060 N062 0 6L6GC
XU9 N084 N089 N088 0 6L6GC
R17 OUTPUT 0 8
R18 HT2 N060 470
R19 HT2 N089 470
R20 OUTPUT N053 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N009 N010 68K
R23 N009 0 1Meg
R24 N009 N010 68K
XU20 N066 N076 N081 7025
R38 HT4 N066 100K
V3 N009 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU24 N054 HT1 N084 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N065 N078 N080 5751
XU26 N065 N078 N080 5751
R43 N080 0 2.2k
C25 N080 0 25µ
XU27 HT6 N065 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N068 RevUnitOut+ N082 7025
R44 RevUnitOut+ 0 100k
XU29 0 N077 spst SET={REV}
R45 HT4 N068 100K
C27 N068 N069 3000p
XU30 N069 0 3 pot_lin Rtot=100K wiper={REVRET} Rtap=.50K tap=0.5
R49 RevUnitIn+ 0 8
B1 N059 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N059 3K
V4 N001 0 -320 Rser=100
XU32 N001 NC_01 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R56 N062 N055 1.5K
R57 N088 N074 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 NC_02 N002 1k
C33 N002 0 20µ
R61 N002 0 220k
C34 N020 N025 .047
XU33 NC_03 0 N025 pot_lin Rtot=100K wiper={MID}
R62 LNFB 0 100
XU34 N015 N029 N024 N024 P003 N024 dpdt SET={GUITARMIC}
XU35 N028 N030 P004 N028 N030 N038 dpdt SET={DEEP}
XU36 N014 N007 NC_04 spdt SET={BRIGHT}
C4 N007 REV 250p
R63 N014 P003 100k
C35 N029 0 .0047
R64 N024 P004 270k
R65 REV N038 270k
C36 N028 N047 .01
R66 N028 N047 1m
R67 0 N030 10k
R68 N032 0 100
R69 P001 REV 68k
C37 N018 N011 .001µ
L2 N013 N012 300m Rser=59
R34 N013 N018 470k
XHigh N008 N018 N027 N040 N042 N046 N050 N052 Switch7Pos1Pole POS=1
XLow N019 N013 N026 N037 N041 N043 N044 N045 Switch7Pos1Pole POS=1
C39 N027 N018 150p
C40 N040 N018 330p
C41 N042 N018 1000p
C42 N046 N018 2400p
C43 N050 N018 5100p
C44 N018 0 .003µ
R70 N008 N018 820k
R71 0 N008 100k
R72 N013 N026 39k
R73 N026 N037 68k
R74 N037 N041 100k
R75 N041 N043 180k
R76 N043 N044 270k
R77 N044 N045 390k
R78 N045 0 12k
C45 N013 N045 .01µ
R79 N019 N008 270k
C38 N052 N018 .01µ
XU37 N004 N008 N016 7025
R80 HT4 N004 100k
XU38 HT4 N004 N034 7025
R81 N016 0 1k
C46 N016 0 1µ
R82 N033 LNFB 470k
C47 N034 N033 .22µ
R83 N034 0 100k
R84 N035 N034 220k
R85 N036 N035 220k
XU39 N003 3 N017 7025
XU40 HT4 N003 N036 7025
R86 HT4 N003 100k
R87 N017 0 1k
C48 N017 0 1µ
R88 N036 0 100k
C49 N035 N048 .01µ
XU41 N048 N063 N051 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
XU42 N048 N049 NC_05 spdt SET={ACCENT}
C50 N049 N051 .001µ
R35 N076 REV 68k
C19 N081 N090 5µ
R36 N081 N090 1.5k
R37 N090 0 100
C20 N067 N066 .001µ
XU10 N067 0 N077 pot_pow Rtot=250K wiper={REVSEND} Rtap=25k tap=0.5
R39 P005 N077 2.2m
C21 N065 P005 .05
R40 N078 N077 10k
R41 RevUnitIn+ N090 2.2k
C22 N082 1 5µ
R42 N082 1 1.5k
R48 1 0 100
R52 N039 N036 270k
C23 N039 1 .1µ
XU11 N070 N083 HT3 pot_lin Rtot=25K wiper=.65
C14 N061 N086 68p
R25 N058 N071 1m
R26 N071 N087 1m
R27 N071 0 130k
R28 BIAS N071 820k
XU12 HT2 N058 N055 7025
XU13 HT2 N087 N074 7025
XU14 N054 N056 N057 0 6L6GC
R29 HT2 N056 470
R30 N057 N055 1.5k
R31 0 N055 470k
R32 N055 0 470k
XU15 N084 N079 N075 0 6L6GC
R33 HT2 N079 470
R46 N075 N074 1.5k
R47 0 N074 470k
R51 N074 0 470k
R53 N012 P002 100k
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Dumble Steel String Singer #002\nLTspice Schematic Ryan Colgan & The Amp Garage\nwww.TheToneGeek.com https://ampgarage.com/
.INC VCRA.INC
.INC transPPC.INC
.param REV=0 REVRET=1 REVSEND=1
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.param bias=.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
* .step param POS 1 7 1
.PARAM  MASTER=0.5
* .STEP LIN PARAM MASTER 0.1  1.0 0.1
* 0 = ACCENT Off\n1 = ACCENT On
.param ACCENT=0
* .STEP LIN PARAM REVSEND 0.1  1.0 0.1
* .step param PI .1 1 .1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
