* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\SSS No 002.asc
C1 N007 N008 360p
XU1 N007 N012 N023 7025
R1 N023 N004 1.5K
R2 HT-A N007 100K
C2 N023 N004 5µ
C3 N022 N021 0.1µ
R3 N007 N021 100K
XU2 N008 N016 N015 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N022 N032 N025 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N005 P001 N024 7025
R4 N024 LNFB 1.5k
R5 HT-A N005 100K
C5 N024 LNFB 5µ
V1 HT1 0 440 Rser=10
C6 N005 P002 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N032 0 1.8k
XU5 N015 0 REV pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N052 0 270
C8 N084 N052 0.1µ
R9 N072 N052 18k
C9 N063 N062 .02µ
R10 N063 N072 1Meg
R11 N072 N084 1Meg
R12 N073 N072 820
XU6 N060 N063 N073 7025
XU7 N085 N084 N073 7025
R13 N082 N085 100K
R14 N060 N070 100k
C10 N057 N060 0.1µ
C11 N086 N085 0.1µ
R15 N054 BIAS 220K
R16 BIAS N074 220K
XU8 N053 N059 N061 0 6L6GC
XU9 N083 N088 N087 0 6L6GC
R17 OUTPUT 0 8
R18 HT2 N059 470
R19 HT2 N088 470
R20 OUTPUT N052 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N011 N012 68K
R23 N011 0 1Meg
R24 N011 N012 68K
XU20 N065 N076 N080 7025
R38 HT4 N065 100K
V3 N011 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU24 N053 HT1 N083 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N064 N069 N079 5751
XU26 N064 N069 N079 5751
R43 N079 0 2.2k
C25 N079 0 25µ
XU27 HT6 N064 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N067 RevUnitOut+ N081 7025
R44 RevUnitOut+ 0 100k
XU29 0 N077 spst SET={REV}
R45 HT4 N067 100K
C27 N067 N068 3000p
XU30 N068 0 3 pot_lin Rtot=100K wiper={REVRET} Rtap=.50K tap=0.5
R49 RevUnitIn+ 0 8
B1 N058 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N058 3K
V4 N001 0 -320 Rser=100
XU32 N001 NC_01 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R56 N061 N054 1.5K
R57 N087 N074 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 NC_02 N002 1k
C33 N002 0 20µ
R61 N002 0 220k
C34 N021 N026 .047
XU33 NC_03 0 N026 pot_lin Rtot=100K wiper={MID}
R62 N004 0 100
XU34 N016 N030 N022 N025 P003 N022 dpdt SET={GUITARMIC}
XU35 N029 N031 P004 N029 N031 N038 dpdt SET={DEEP}
XU36 N015 N009 NC_04 spdt SET={BRIGHT}
C4 N009 REV 250p
R63 N015 P003 100k
C35 N030 0 .0047
R64 N022 P004 270k
R65 REV N038 270k
C36 N031 N029 .01
R66 N031 N029 1m
R67 0 N031 10k
R68 LNFB 0 100
R69 P001 REV 68k
C37 N019 N005 .001µ
L2 N014 N013 300m Rser=59
R34 N014 N019 470k
XHigh N010 N019 N028 N040 N042 N046 N049 N051 Switch7Pos1Pole POS=1
XLow N020 N014 N027 N037 N041 N043 N044 N045 Switch7Pos1Pole POS=1
C39 N028 N019 150p
C40 N040 N019 330p
C41 N042 N019 1000p
C42 N046 N019 2400p
C43 N049 N019 5100p
C44 N019 0 .003µ
R70 N010 N019 820k
R71 0 N010 100k
R72 N014 N027 39k
R73 N027 N037 68k
R74 N037 N041 100k
R75 N041 N043 180k
R76 N043 N044 270k
R77 N044 N045 390k
R78 N045 0 12k
C45 N014 N045 .01µ
R79 N020 N010 270k
C38 N051 N019 .01µ
XU37 N006 N010 N017 7025
R80 HT4 N006 100k
XU38 HT4 N006 N034 7025
R81 N017 0 1k
C46 N017 0 1µ
R82 N033 LNFB 470k
C47 N034 N033 .22µ
R83 N034 0 100k
R84 N035 N034 220k
R85 N036 N035 220k
XU39 N003 3 N018 7025
XU40 HT4 N003 N036 7025
R86 HT4 N003 100k
R87 N018 0 1k
C48 N018 0 1µ
R88 N036 0 100k
C49 N035 N047 .01µ
XU41 N047 N062 N050 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
XU42 N047 N048 NC_05 spdt SET={ACCENT}
C50 N048 N050 .001µ
R35 N076 REV 68k
C19 N080 N089 5µ
R36 N080 N089 1.5k
R37 N089 0 100
C20 N066 N065 .001µ
XU10 N066 0 N077 pot_pow Rtot=250K wiper={REVSEND} Rtap=25k tap=0.5
R39 P005 N069 2.2m
C21 N064 P005 .05
R40 N069 N077 10k
R41 RevUnitIn+ N089 2.2k
C22 N081 1 5µ
R42 N081 1 1.5k
R48 1 0 100
R52 N039 N036 270k
C23 N039 1 .1µ
XU11 N070 N082 HT3 pot_lin Rtot=25K wiper=.65
C14 N060 N085 68p
R25 N057 N071 1m
R26 N071 N086 1m
R27 N071 0 130k
R28 BIAS N071 820k
XU12 HT2 N057 N054 7025
XU13 HT2 N086 N074 7025
XU14 N053 N055 N056 0 6L6GC
R29 HT2 N055 470
R30 N056 N054 1.5k
R31 0 N054 470k
R32 N054 0 470k
XU15 N083 N078 N075 0 6L6GC
R33 HT2 N078 470
R46 N075 N074 1.5k
R47 0 N074 470k
R51 N074 0 470k
R53 N013 P002 100k
R54 P006 N004 1m
C15 N005 P006 .1
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Dumble Steel String Singer #002\nLTspice Schematic Ryan Colgan & The Amp Garage\nwww.TheToneGeek.com https://ampgarage.com/
.INC VCRA.INC
.INC transPPC.INC
.param REV=0 REVRET=1 REVSEND=1
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.param bias=.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
* .step param POS 1 7 1
.PARAM  MASTER=0.5
* .STEP LIN PARAM MASTER 0.1  1.0 0.1
* 0 = ACCENT Off\n1 = ACCENT On
.param ACCENT=0
* .STEP LIN PARAM REVSEND 0.1  1.0 0.1
* .step param PI .1 1 .1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
