* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\SSS No 002.asc
C1 N007 N008 360p
XU1 N007 N012 N024 5751
R1 N024 N004 1.5K
R2 HT-A N007 100K
C2 N024 N004 5µ
C3 N023 N022 0.1µ
R3 N007 N022 100K
XU2 N008 N017 N016 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N023 N033 N026 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N005 P001 N025 5751
R4 N025 LNFB 1.5k
R5 HT-A N005 100K
C5 N025 LNFB 5µ
V1 HT1 0 440 Rser=10
C6 N005 N013 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N033 0 1.8k
XU5 N016 0 REV pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N053 0 270
C8 N085 N053 0.1µ
R9 N073 N053 18k
C9 N064 N063 .02µ
R10 N064 N073 1Meg
R11 N073 N085 1Meg
R12 N074 N073 820
XU6 N061 N064 N074 7025
XU7 N086 N085 N074 7025
R13 N083 N086 100K
R14 N061 N071 100k
C10 N058 N061 0.1µ
C11 N087 N086 0.1µ
R15 N055 BIAS 220K
R16 BIAS N075 220K
XU8 N054 N060 N062 0 6L6GC
XU9 N084 N089 N088 0 6L6GC
R17 OUTPUT 0 8
R18 HT2 N060 470
R19 HT2 N089 470
R20 OUTPUT N053 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N011 N012 68K
R23 N011 0 1Meg
R24 N011 N012 68K
XU20 N066 N077 N081 7025
R38 HT4 N066 100K
V3 N011 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU24 N054 HT1 N084 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N065 N070 N080 5751
XU26 N065 N070 N080 5751
R43 N080 0 2.2k
C25 N080 0 25µ
XU27 HT6 N065 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N068 RevUnitOut+ N082 7025
R44 RevUnitOut+ 0 100k
XU29 0 N078 spst SET={REV}
R45 HT4 N068 100K
C27 N068 N069 3000p
XU30 N069 0 3 pot_lin Rtot=100K wiper={REVRET} Rtap=.50K tap=0.5
R49 RevUnitIn+ 0 8
B1 N059 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N059 3K
V4 N001 0 -320 Rser=100
XU32 N001 NC_01 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R56 N062 N055 1.5K
R57 N088 N075 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 NC_02 N002 1k
C33 N002 0 20µ
R61 N002 0 220k
C34 N022 N027 .047
XU33 NC_03 0 N027 pot_lin Rtot=100K wiper={MID}
R62 N004 0 100
XU34 N017 N031 N023 N026 P002 N023 dpdt SET={GUITARMIC}
XU35 N030 N032 P003 N030 N032 N039 dpdt SET={DEEP}
XU36 N016 N009 NC_04 spdt SET={BRIGHT}
C4 N009 REV 250p
R63 N016 P002 100k
C35 N031 0 .0047
R64 N023 P003 270k
R65 REV N039 270k
C36 N032 N030 .01
R66 N032 N030 1m
R67 0 N032 10k
R68 LNFB 0 100
R69 P001 REV 68k
C37 N020 N013 .001µ
L2 N015 N014 300m Rser=59
R34 N015 N020 470k
XHigh N010 N020 N029 N041 N043 N047 N050 N052 Switch7Pos1Pole POS=3
XLow N021 N015 N028 N038 N042 N044 N045 N046 Switch7Pos1Pole POS=3
C39 N029 N020 150p
C40 N041 N020 330p
C41 N043 N020 1000p
C42 N047 N020 2400p
C43 N050 N020 5100p
C44 N020 0 .003µ
R70 N010 N020 820k
R71 0 N010 100k
R72 N015 N028 39k
R73 N028 N038 68k
R74 N038 N042 100k
R75 N042 N044 180k
R76 N044 N045 270k
R77 N045 N046 390k
R78 N046 0 12k
C45 N015 N046 .01µ
R79 N021 N010 270k
C38 N052 N020 .01µ
XU37 N006 N010 N018 7025
R80 HT4 N006 100k
XU38 HT4 N006 N035 7025
R81 N018 0 1k
C46 N018 0 1µ
R82 N034 LNFB 470k
C47 N035 N034 .22µ
R83 N035 0 100k
R84 N036 N035 220k
R85 N037 N036 220k
XU39 N003 3 N019 7025
XU40 HT4 N003 N037 7025
R86 HT4 N003 100k
R87 N019 0 1k
C48 N019 0 1µ
R88 N037 0 100k
C49 N036 N048 .01µ
XU41 N048 N063 N051 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
XU42 N048 N049 NC_05 spdt SET={ACCENT}
C50 N049 N051 .001µ
R35 N077 REV 68k
C19 N081 N090 5µ
R36 N081 N090 1.5k
R37 N090 0 100
C20 N067 N066 .001µ
XU10 N067 0 N078 pot_pow Rtot=250K wiper={REVSEND} Rtap=25k tap=0.5
R39 P004 N070 2.2m
C21 N065 P004 .05
R40 N070 N078 10k
R41 RevUnitIn+ N090 2.2k
C22 N082 1 5µ
R42 N082 1 1.5k
R48 1 0 100
R52 N040 N037 270k
C23 N040 1 .1µ
XU11 N071 N083 HT3 pot_lin Rtot=25K wiper=.65
C14 N061 N086 68p
R25 N058 N072 1m
R26 N072 N087 1m
R27 N072 0 130k
R28 BIAS N072 820k
XU12 HT2 N058 N055 7025
XU13 HT2 N087 N075 7025
XU14 N054 N056 N057 0 6L6GC
R29 HT2 N056 470
R30 N057 N055 1.5k
R31 0 N055 470k
R32 N055 0 470k
XU15 N084 N079 N076 0 6L6GC
R33 HT2 N079 470
R46 N076 N075 1.5k
R47 0 N075 470k
R51 N075 0 470k
R53 N014 N013 100k
R54 P005 N004 100k
C15 N005 P005 .1
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Dumble Steel String Singer #002\nLTspice Schematic Ryan Colgan & The Amp Garage\nwww.TheToneGeek.com https://ampgarage.com/
.INC VCRA.INC
.INC transPPC.INC
.param REV=0 REVRET=1 REVSEND=1
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.param bias=.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
* .step param POS 1 7 1
.PARAM  MASTER=0.5
* .STEP LIN PARAM MASTER 0.1  1.0 0.1
* 0 = ACCENT Off\n1 = ACCENT On
.param ACCENT=0
* .STEP LIN PARAM REVSEND 0.1  1.0 0.1
* .step param PI .1 1 .1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
